US05166204
30 ml of o-dichlorobenzene was added to a mixture of 2.0 g of N-benzyl-3-methyl-6-(2-nitrophenyl)-phthalimide and 4.2 g of triphenylphosphine. The mixture was refluxed for 8 hours. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: toluene/ethyl acetate=50/1), followed by recrystallization from n-propanol to obtain 850 mg (yield: 47%) of N-benzyl-2-methylcarbazole-3,4-dicarboximide as yellow crystals.

reactant | N-benzyl-3-methyl-6-(2-nitrophenyl)-phthalimide | 2.0 g | C(C1=CC=CC=C1)N1C(C=2C(C1=O)=C(C=CC2C2=C(C=CC=C2)[N+](=O)[O-])C)=O | C22H16N2O4
reactant | triphenylphosphine | 4.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | o-dichlorobenzene | 30 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | N-benzyl-2-methylcarbazole-3,4-dicarboximide | 850 mg, yield: 47% | C(C1=CC=CC=C1)N1C(=O)C=2C(=CC=3NC4=CC=CC=C4C3C2C1=O)C | C22H16N2O2
